2117-03-09 09:03:00 Physician Attending Progress Note
Chief Complaint: VTach
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo man with CHF, EF 20% h/o PVD, recent ax-bifem.  Had VT overnight
   for 1 hour, HR 120-150.  Got amio, lido, mexilitine.  And converted
   with AICD.   Has had some persistent HOTN overnight responded to
   boluses.  Had some SOB and wheezing, did not respond to nebs, so given
   solumedrol and breathing improved.  Has chronically elevated WBC.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2117-3-8**] 08:30 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-3-8**] 04:00 PM
   Other medications:
   thiamine
   simvastatin
   prilosec
   prilosec
   FeSO4
   ASA
   hep s/q
   albuterol/atrovent
   collagenase
   amiodarone
   miconazole
   digoxin
   prednisone
   s/q insuline
   amiodarone drip
   mexilitine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-3-9**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.4
C (95.8
   HR: 86 (61 - 139) bpm
   BP: 101/61(72) {60/43(48) - 150/119(124)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,590 mL
                                                                    383 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    550 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    255 mL
   Urine:
                                                                    900 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    690 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   413 K/uL
   150 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   18 mg/dL
   106 mEq/L
   140 mEq/L
   34.8 %
   25.7 K/uL
        [image002.jpg]
                             [**2117-3-6**]  03:42 PM
                             [**2117-3-6**]  07:37 PM
                             [**2117-3-7**]  03:32 AM
                             [**2117-3-8**]  04:04 AM
                             [**2117-3-9**]  03:40 AM
   WBC
   19.1
   17.8
   25.7
   Hct
   31.3
   30.9
   34.8
   Plt
   [**Telephone/Fax (3) 7062**]
   Cr
   1.3
   1.2
   1.3
   TropT
   0.09
   0.10
   TCO2
   27
   Glucose
   89
   113
   150
   Other labs: PT / PTT / INR:14.3/28.9/1.2, CK / CKMB /
   Troponin-T:75/3/0.10, Differential-Neuts:73.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:18.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ventricular tachycardia:  Continue PO amio and mexilitine
   HOTN:  responding to fluid boluses.  Likely due to decreased cardiac
   function in the setting of recurrent VT
   Respiratory distress/Hypoxemia/SOB:  Likely fluid overloaded plus
   underlying COPD.  Responded to steroids.  Can try to diurese once BP is
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-9**] 06:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will discuss with son.
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2117-03-10 09:56:00 Physician Attending Progress Note
Chief Complaint: VT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with chronic sysolic HF, admitted with recurrent VT.  This
   morning has had multiple runs of VT, got 150mg amiodarone IV
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2117-3-9**] 02:00 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2117-3-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-3-9**] 11:21 PM
   Furosemide (Lasix) - [**2117-3-9**] 11:21 PM
   Other medications:
   thiamine
   simvastatin
   prilosec
   MVI
   FeSO4
   asa
   heparin s/q
   collagenase ointment
   amiodarone
   miconazole
   mexilitine
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Musculoskeletal: No(t) Joint pain
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2117-3-10**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 84 (74 - 85) bpm
   BP: 118/70(82) {95/42(57) - 123/75(85)} mmHg
   RR: 26 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    733 mL
                                                                     97 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    573 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    632 mL
                                                                    430 mL
   Urine:
                                                                    632 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   409 K/uL
   128 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.4 mEq/L
   21 mg/dL
   106 mEq/L
   138 mEq/L
   30.8 %
   22.3 K/uL
        [image002.jpg]
                             [**2117-3-6**]  03:42 PM
                             [**2117-3-6**]  07:37 PM
                             [**2117-3-7**]  03:32 AM
                             [**2117-3-8**]  04:04 AM
                             [**2117-3-9**]  03:40 AM
                             [**2117-3-10**]  01:53 AM
   WBC
   19.1
   17.8
   25.7
   22.3
   Hct
   31.3
   30.9
   34.8
   30.8
   Plt
   [**Telephone/Fax (3) 7072**]09
   Cr
   1.3
   1.2
   1.3
   1.4
   TropT
   0.09
   0.10
   TCO2
   27
   Glucose
   89
   113
   150
   128
   Other labs: PT / PTT / INR:15.3/49.5/1.3, CK / CKMB /
   Troponin-T:75/3/0.10, Differential-Neuts:73.0 %, Band:2.0 %, Lymph:3.0
   %, Mono:18.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Recurrent VT this morning:  responded to IV amio.    Will discuss with
   [**Hospital1 1896**] team if they feel comfortable taking him on the floor.  Otherwise
   can go to CCU team to manage the VT.  Will also d/w cardiology about
   increaing mexilitine.
   chronic renal failure:  stable
   Patient and son concur that they do not want shocks. DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-3-9**] 06:19 AM
   18 Gauge - [**2117-3-9**] 07:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes